US04738968
The known compound, 1-benzyl-3-hydroxy-4-hydroxymethylpyrrolidine [see J. Org. Chem., 30, 740 (1965)] (110 g) was allowed to react in chloroform with methanesulfonyl chloride (60.9 g) in the presence of triethylamine to yield 1-benzyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine (81 g) as an oil.

reactant | 1-benzyl-3-hydroxy-4-hydroxymethylpyrrolidine | 110 g | C(C1=CC=CC=C1)N1CC(C(C1)CO)O | C12H17NO2
reactant | methanesulfonyl chloride | 60.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-3-hydroxy-4-methanesulfonyloxymethylpyrrolidine | 81 g | C(C1=CC=CC=C1)N1CC(C(C1)COS(=O)(=O)C)O | C13H19NO4S
